US08669255B2
tert-butyl (7S,8aS)-7-({[3-(trifluoromethyl)phenyl]sulfonyl}amino)-hexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To a solution of (7S,8aS)-tert-butyl 7-aminohexahydropyrrolo[1,2-a]-pyrazine-2(1H)-carboxylate (0.22 g, 0.92 mmol) in dimethylformamide/dichloromethane (1:5, 5 mL) was added sodium carbonate (0.166 g, 1.56 mmol) and 3-(trifluoromethyl)-benzene-1-sulfonyl chloride (0.315 g, 1.29 mmol). The mixture was stirred at room temperature for 18 hours and then concentrated. The residue was purified by chromatography on silica gel (dichloromethane/methanol=15:1) to give the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.19 (m, 1H), 1.38 (s, 9H), 1.40 (m, 2H), 1.70 (m, 1H), 1.84 (m, 1H), 2.00 (m, 1H), 2.18 (m, 1H), 2.64 (m, 1H), 2.79 (m, 1H), 3.70 (m, 1H), 3.80-3.95 (m, 2H), 7.83 (m, 1H), 8.05 (m, 1H), 8.11 (m, 2H), 8.15 (m, 1H); MS (ESI) m/z 450 (M+H)+.

reactant | (7S,8aS)-tert-butyl 7-aminohexahydropyrrolo[1,2-a]-pyrazine-2(1H)-carboxylate | 0.92 mmol, 0.22 g | N[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H23N3O2
reactant | sodium carbonate | 1.56 mmol, 0.166 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(trifluoromethyl)-benzene-1-sulfonyl chloride | 1.29 mmol, 0.315 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dimethylformamide dichloromethane | 5 mL | CN(C=O)C.ClCCl
product | tert-butyl (7S,8aS)-7-({[3-(trifluoromethyl)phenyl]sulfonyl}amino)-hexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | FC(C=1C=C(C=CC1)S(=O)(=O)N[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1)(F)F | C19H26F3N3O4S
